spice
* SPICE Netlist
* NMOS Transistor Definition
M1 3 6 1 1 NMOS_MODEL
* Voltage Source
Vx 2 1 DC 0
* Current Source
Ix 6 2 DC 0
* Resistor
? Missing component
* Capacitors
CGD 6 3 1p
CDB 3 4 1p
* DC Supply Voltage
VDD VDD 0 DC 5V
* Model Definition (Placeholder)
.model NMOS_MODEL NMOS
